US05703139
Synthesis of methacryloxyethyldimethyl(hydroxyethyl) ammonium bromide
31.4 g (0.2 mole) of (dimethylamino)ethyl methacrylate was introduced into a 250 ml three-neck flask equipped with ice-bath, thermometer, refluxing condenser, dropping funnel and magnetic stirring bar. The compound was stirred and then the temperature thereof was lowered to -10° C. 25 g (0.2 mole) of bromoethanol was added dropwise thereto over 30 minutes while maintaining the temperature of the contents at 0° C. or less. After the addition was complete the reaction mixture was stirred for 24 hours at room temperature. 100 ml of ethyl acetate was added to the mixture and the whole was stirred, filtered and dried to obtain 54 g (Yield: 96%) of the title compound as a white powder.

reactant | (dimethylamino)ethyl methacrylate | 0.2 mole, 31.4 g | C(C(=C)C)(=O)OCCN(C)C | C8H15NO2
reactant | bromoethanol | 0.2 mole, 25 g | BrC(C)O | C2H5BrO
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | methacryloxyethyldimethyl(hydroxyethyl) ammonium bromide | 54 g, Yield: 96% | [Br-].C(C(=C)C)(=O)OCC[N+](CCO)(C)C | InChI=1S/C10H20NO3.BrH/c1-9(2)10(13)14-8-6-11(3,4)5-7-12;/h12H,1,5-8H2,2-4H3;1H/q+1;/p-1
